US06673804B1
1-Methyl-6-trifluoromethylpyrimidine-2,4-dione
A solution of pyrimidine-2,4-dione (158 mg, 0.88 mmol) in anhydrous tetrahydrofuran (1 ml) was added dropwise to a suspension of potassium tert-butoxide (99 mg, 0.88 mmol) in tetrahydrofaran (2 ml) with ice-cooling, and the mixture was stirred at room temperature for 1 hour. Methyl trifloromethanesulfonate (100 μl, 0.88 mmol) was added dropwise to the reaction mixture with ice-cooling. This mixture was stirred at the same temperature for 12 hours. The reaction mixture was poured into 1N hydrochloric acid, and then this was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=8/2 as the eluant to give the title compound (105 mg, yield 62%) as a white powder.

reactant | pyrimidine-2,4-dione | 0.88 mmol, 158 mg | N1C(NC(C=C1)=O)=O | C4H4N2O2
reactant | potassium tert-butoxide | 0.88 mmol, 99 mg | CC(C)([O-])C.[K+]
reactant | Methyl trifloromethanesulfonate | 0.88 mmol, 100 μl | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-Methyl-6-trifluoromethylpyrimidine-2,4-dione | 105 mg, yield 62% | CN1C(NC(C=C1C(F)(F)F)=O)=O | C6H5F3N2O2
